US05057524
4-Chloro-N,N-diphenylbutanamide
A solution 22.8 g (0.14 mole) of diphenylamine in 150 ml of tetrahydrofuran was added dropwise to a solution of 9.9 g (0.07 mole) of 4-chlorobutyryl chloride in 100 ml of tetrahydrofuran. The reaction mixture was stirred mechanically and the temperature maintained between 5° C. and 15° C. throughout the addition. After the final addition, the solution was filtered to remove solid precipitates and the filtrate was concentrated under reduced pressure to give a yellow solid. The solid was purified by column chromatography using 300 g of silica gel on a 65 cm×4 cm column, eluted with 10% ethyl acetate in hexane. The fractions containing the desired product were combined and concentrated under reduced pressure to yield 16.8 g (88%) of white, crystalline solid, mp 78°-79° C.

reactant | diphenylamine | 0.14 mole, 22.8 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | 4-chlorobutyryl chloride | 0.07 mole, 9.9 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Chloro-N,N-diphenylbutanamide | ClCCCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16ClNO
